US05527791
To a solution of (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-carboxyphenylcarbamoyl)pyrrolidine (0.49 g, 1 mM) in dichloromethane (10 ml) was added oxalyl chloride (0.20 ml. 1.1 mM) and dimethylformamide (2-3 drops). After 1 hour a further amount of oxalyl chloride (0.20 ml, 1.1 mM) and DMF (2-3 drops) were added and the mixture stirred for a further hour. The solution was evaporated to leave a yellow gum. The gum was dissolved in dichloromethane (10 ml) and added to a suspension of 4-nitrobenzyl 2-aminoethanoate hydrochloride salt (0.30 g, 1.2 mM) and N-methylmorpholine (0.27 ml, 2.4 mM) in dichloromethane (10 ml). After 17 hours the mixture was diluted with dichloromethane (80 ml), washed with water (20 ml), brine (20 ml) and dried (MgSO4). Purification by flash chromatography through silica using a gradient of dichloromethane to ethyl acetate as eluent gave (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-(4-nitrobenzyloxycarbonylmethylaminocarbonyl)phenylcarbamoyl)-pyrrolidine (380 mg).

reactant | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-carboxyphenylcarbamoyl)pyrrolidine | 1 mM, 0.49 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(NC1=CC(=CC=C1)C(=O)O)=O | C22H21N3O8S
reactant | oxalyl chloride | 1.1 mM, 0.20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 1.1 mM, 0.20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-nitrobenzyl 2-aminoethanoate hydrochloride salt | 1.2 mM, 0.30 g | Cl.NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
reactant | N-methylmorpholine | 2.4 mM, 0.27 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2-3 drops | CN(C=O)C | C3H7NO
catalyst | DMF | 2-3 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-(4-nitrobenzyloxycarbonylmethylaminocarbonyl)phenylcarbamoyl)-pyrrolidine | 380 mg | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(NC1=CC(=CC=C1)C(=O)NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H29N5O11S
